US07569589B2
To a mixture of 3-(pyridine-3-ylmethyl)pyridine (2 g, 11.75 mmol) in anhydrous THF (40 mL) @ −78° C. under N2. was added LDA (9.79 mL, 1.8 M) dropwise. The mixture was stirred @ −78° C. for 1 hr and 2-bromo-6-[chloro(6-methoxypyridin-2-yl)methyl]pyridine was added. The mixture was warmed to 0° C. and stirred for 2 hr. The reaction was quenched with saturated aqueous NH4Cl, and extracted 3× with EtOAc. The combined organics were dried (anhd. Na2SO4), filtered, and concentrated. The residue was purified by silica gel chromatography (1-5% MeOH in CH2Cl2) to give 2-bromo-6-[1-(6-methoxypyridin-2-yl)-2,2-dipyridin-3-ylethyl]pyridine. 1H NMR (500 MHz, CDCl3) δ 8.51 (t, 2H, J=2.7), 8.36-8.28 (m, 2H), 7.69 (dt, 1H, J=8.1, 2.0), 7.58 (dt, 1H, J=8.0, 1.9) 7.50 (d, 1H, J=7.6), 7.38-7.30 (m, 2H), 7.18 (d, 1H, J=7.8), 7.13 (dd, 1H, J=7.9, 4.8), 7.09 (dd, 1H, J=7.8, 4.9), 6.86 (d, 1H, J=7.3), 6.45 (d, 1H, J=8.1), 5.27 (d, 1H, J=12.2), 5.06 (d, 1H, J=12.5), 3.95 (s, 3H), LRMS m/z (M+H) Calcd.: 447.1, found: 447.1. The racemic mixture was separated by ChiralPak AD (40% EtOH in Hexanes+DEA 1 mL/L). The first peak was enantiomer A of 2-bromo-6-[1-(6-methoxypyridin-2-yl)-2,2-dipyridin-3-ylethyl]pyridine, and the second peak was enantiomer B of 2-bromo-6-[1-(6-methoxypyridin-2-yl)-2,2-dipyridin-3-ylethyl]pyridine.

reactant | 3-(pyridine-3-ylmethyl)pyridine | 11.75 mmol, 2 g | N1=CC(=CC=C1)CC=1C=NC=CC1 | C11H10N2
reactant | LDA | 1.8 M, 9.79 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-bromo-6-[chloro(6-methoxypyridin-2-yl)methyl]pyridine | BrC1=NC(=CC=C1)C(C1=NC(=CC=C1)OC)Cl | C12H10BrClN2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-bromo-6-[1-(6-methoxypyridin-2-yl)-2,2-dipyridin-3-ylethyl]pyridine | BrC1=NC(=CC=C1)C(C(C=1C=NC=CC1)C=1C=NC=CC1)C1=NC(=CC=C1)OC | C23H19BrN4O
